US05856309
To a solution of 4.52 g (14.4 mmol) 2-(1-tert.-butoxycarbonyl-2,5-dihydro-1H-pyrrol-3-yl-methyl)-malonic acid idimethylester n 140 ml DMF were added 1.94 g (108 mmol) water and 1.26 g( 21.6 mmol) sodium chloride. The mixture was degassed and heated to 150° C. for 30 h under an atmosphere of argon. After this period of time no starting material could be detected by TLC. The mixture was cooled to room temperature, diluted with 200 ml ether and washed three times with water, then with brine. The organic layer was dried over MgSO4 and evaporated. Purification by bulb-to-bulb distillation gave 3.38 g (92%) of 3-(2-methoxycarbonyl-ethyl)-2,5-dihydropyrrole-1-carboxylic acid tert. butylester as a colorless oil, b.p. 130° C. (0.2 mbar).

reactant | 2-(1-tert.-butoxycarbonyl-2,5-dihydro-1H-pyrrol-3-yl-methyl)-malonic acid | 14.4 mmol, 4.52 g | C(C)(C)(C)OC(=O)N1CC(=CC1)CC(C(=O)O)C(=O)O | C13H19NO6
reactant | water | 108 mmol, 1.94 g | O | H2O
reactant | sodium chloride | 21.6 mmol | [Cl-].[Na+]
reactant | DMF | 140 ml | CN(C)C=O | C3H7NO
product | 3-(2-methoxycarbonyl-ethyl)-2,5-dihydropyrrole-1-carboxylic acid tert. butylester | 3.38 g, 92% | C(C)(C)(C)OC(=O)N1CC(=CC1)CCC(=O)OC | C13H21NO4
